US08664220B2
Step 2: [1-(4′-{4-[(E)-1-Hydroxy-4-(4-phenoxy-phenyl)-but-3-enyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropyl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 28, Step 1, using (E)-1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-4-(4-phenoxy-phenyl)-but-3-en-1-ol and {1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropyl}-acetic acid ethyl ester.

reactant | (E)-1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-4-(4-phenoxy-phenyl)-but-3-en-1-ol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(C\C=C\C1=CC=C(C=C1)OC1=CC=CC=C1)O | C26H22BrNO3
reactant | {1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropyl}-acetic acid ethyl ester | C(C)OC(CC1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C19H27BO4
product | [1-(4′-{4-[(E)-1-Hydroxy-4-(4-phenoxy-phenyl)-but-3-enyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropyl]-acetic acid ethyl ester | C(C)OC(CC1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(C\C=C\C1=CC=C(C=C1)OC1=CC=CC=C1)O)=O | C39H37NO5
